US06136852
2-[2-Benzyloxy-5-(2-methyl-1,3-dioxolan-2-yl)phenyl]ethanol (9.0 g) was dissolved in N,N-dimethylformamide (100 ml), and 60% sodium hydride in oil (1.26 g) was added to the solution under ice-cooling with stirring. After reaction for an hour at room temperature, benzyl bromide (3.75 ml) was added to the reaction mixture under ice-cooling with stirring, followed by reaction for 16 hours at room temperature. Ice (100 g) and water (100 ml) were added to the reaction mixture, and the resulting mixture was extracted with diethyl ether, then the solvent was removed in vacuo. The residue was dissolved in 1,2-dimethoxyethane (50 ml), and 1 N hydrochloric acid (10 ml) was added to the solution, then the resulting mixture was stirred for 30 minutes at room temperature. Water was added to the reaction mixture, and the resulting mixture was extracted with diethyl ether. The extract was dried over anhydrous magnesium sulfate, and the solvent was removed in vacuo. Purification of the residue by medium pressure liquid column chromatography on silica gel (eluent: hexane/diethyl ether=2/1) gave 4'-benzyloxy-3'-(2-benzyloxyethyl)acetophenone (8.5 g) as an oil.

reactant | 2-[2-Benzyloxy-5-(2-methyl-1,3-dioxolan-2-yl)phenyl]ethanol | 9.0 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C1(OCCO1)C)CCO | C19H22O4
reactant | sodium hydride | [H-].[Na+]
reactant | benzyl bromide | 3.75 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 100 ml | O | H2O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 4'-benzyloxy-3'-(2-benzyloxyethyl)acetophenone | 8.5 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(C)=O)CCOCC1=CC=CC=C1 | C24H24O3
